US05010195
Preparation of N-(2,6-Dichlorophenyl)-8-chloro-7-methoxy-5-methyl-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide
Anhydrous sodium iodide (11.7 g, 0.078 mol) was placed in 50 ml of dry acetonitrile and 8.5 g (0.078 mol) of trimethylsilyl chloride added with stirring. To this was added 6.3 g (0.039 mol) of 2,6-dichloroaniline and 7.9 g (0.078 mol) of triethylamine. The mixture was stirred at ambient temperature for 30 min and then the volatiles were carefully removed by evaporation under reduced pressure and the residue diluted with ether and filtered. The contents of this solution appeared to be N-trimethylsilyl-2,6-dichloroaniline of about 97 percent purity by GLC analysis. The ether precipitation of insolubles was repeated and the ether was removed by evaporation under reduced pressure. The residue was mixed with 50 ml of dry acetonitrile, 3.9 g (0.013 mol) of 8-chloro-2-chlorosulfonyl-7-methoxy-5-methyl-1,2,4-triazolo[1,5-c]pyrimidine, and 0.2 ml (0.003 mol) of dimethylsulfoxide and the mixture stirred overnight. The resulting mixture was concentrated under reduced pressure and the solid residue was mixed with hexane and water and filtered. The residue was then dissolved in 400 ml of methylene chloride and resulting solution was twice extracted with water, dried over sodium sulfate and filtered. It was then concentrated under reduced pressure and the residue was mixed with hexane, collected by filtration, and dried to obtain 3.3 g (60 percent of theory) of the title compound as a pale yellow powder melting at 255° C.-256° C. with decomposition.

reactant | sodium iodide | 0.078 mol, 11.7 g | [I-].[Na+]
reactant | trimethylsilyl chloride | 0.078 mol, 8.5 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,6-dichloroaniline | 0.039 mol, 6.3 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | triethylamine | 0.078 mol, 7.9 g | C(C)N(CC)CC | C6H15N
reactant | 8-chloro-2-chlorosulfonyl-7-methoxy-5-methyl-1,2,4-triazolo[1,5-c]pyrimidine | 0.013 mol, 3.9 g | ClC=1C=2N(C(=NC1OC)C)N=C(N2)S(=O)(=O)Cl | C7H6Cl2N4O3S
reactant | dimethylsulfoxide | 0.003 mol, 0.2 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(2,6-Dichlorophenyl)-8-chloro-7-methoxy-5-methyl-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(=NC(=C(C2=N1)Cl)OC)C | C13H10Cl3N5O3S
